US04910202
A mixture of 20 g (99.0 mmol) of methyl 3,5-diamino-6-chloropyrazine-2-carboxylate (see U.S. Pat. No. 4,029,816 for an example of how to obtain this material) and 17 g (230.0 mmol) of N-methylethylenediamine was heated at reflux under an inert atmosphere for 30 hours. The rection mixture was cooled to ambient temperature and the solid was dissolved in 100 ml of tetrahydrofuran. The solution was filtered and evaporated. The residue was crystallized from 2-propanol. There was obtained 15.0 g (61.2 mmol, 61%) of 3,5-diamino-6-chloro-N-(2-methylaminoethyl)pyrazine-2-carboxamide; mp 142.5°-143° C.

reactant | methyl 3,5-diamino-6-chloropyrazine-2-carboxylate | 99.0 mmol, 20 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)OC | C6H7ClN4O2
reactant | N-methylethylenediamine | 230.0 mmol, 17 g | CNCCN | C3H10N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,5-diamino-6-chloro-N-(2-methylaminoethyl)pyrazine-2-carboxamide | 61.2 mmol, 15.0 g, 61% | NC=1C(=NC(=C(N1)N)Cl)C(=O)NCCNC | C8H13ClN6O
